US08609644B2
Following the procedures described for the preparation of 5α-hydroxyandrostane-3,17-dione (II-ad, Prepn. 4), starting from 17,17-(ethylendioxy)-5-androsten-3β-ol after epoxidation with mCPBA, reduction with LAH, and oxidation with IBX, 17,17-(ethylendioxy)-5α-hydroxyandrostane-3-one was obtained in 55% yield. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ4.29 (s, 1H), 3.78 (m, 4H), 2.69-1.10 (m, 21H), 1.07 (s, 3H), 0.76 (s, 3H).

reactant | 5α-hydroxyandrostane-3,17-dione | O[C@]12CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC(C1)=O)C)=O | C19H28O3
reactant | 17,17-(ethylendioxy)-5-androsten-3β-ol | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC=C4C[C@H](CC[C@]4(C)[C@H]2CC3)O)OC1 | C21H32O3
reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 17,17-(ethylendioxy)-5α-hydroxyandrostane-3-one | 55% yield | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC[C@]4(CC(CC[C@]4(C)[C@H]2CC3)=O)O)OC1 | C21H32O4
